US07727983B2
To a solution of (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester (1 mmol) in methanol was added Pd/C (0.2 mmol). The mixture was hydrogenated using balloon for 2-4 h. The mixture was passed through a pad of celite and the filtrate was evaporated to furnish (S)-3-(4-Hydroxy-phenyl)-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester. This ester was converted to (S)-7-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-(4-hydroxy-phenyl)-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester using the general procedure A. LC-MS (m/z): 704.

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | 1 mmol | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(=O)O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C30H28Cl2N2O7
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.2 mmol | [Pd] | Pd
product | (S)-3-(4-Hydroxy-phenyl)-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(=O)O)=O)C1=CC=C(C=C1)O | C23H24N2O7
